US05166214
Part B. A solution of 6-bromo-1-(4,5-diphenyl-1-[(trimethylsilyl)ethoxymethyl]-1H-imidazol-2-yl)hexane (1.0 g, 0.00195 mol) and n-heptylamine (0.45 g, 0.00389 mol) in acetonitrile (25 mL) was heated to 60° for 8 hours. The reaction mixture was poured into 10% aqueous sodium bicarbonate and extracted with ethyl acetate (2×50 mL). The combined organic extract was washed with water, brine, dried over magnesium sulfate and concentrated to give N-[6-(4,5-diphenyl-1-[(trimethylsilyl)ethoxymethyl]-1H-imidazol-2-yl)hexyl]-N-heptylamine as a colorless viscous oil (1.04 g, 0.00189 mol). 1H NMR (CDCl3) δ7.52-7.2(m,10H), 5.11(s,2H), 4.7-4.2(bs,1H), 3.3(t,2H), 2.93-2.70(m,6H), 1.95-1.34(m,18H), 0.93(t,3H), 0.86(t,2H), 0.005(s,9H).

reactant | 6-bromo-1-(4,5-diphenyl-1-[(trimethylsilyl)ethoxymethyl]-1H-imidazol-2-yl)hexane | 0.00195 mol, 1.0 g | BrCCCCCCC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C | C27H37BrN2OSi
reactant | n-heptylamine | 0.00389 mol, 0.45 g | C(CCCCCC)N | C7H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-[6-(4,5-diphenyl-1-[(trimethylsilyl)ethoxymethyl]-1H-imidazol-2-yl)hexyl]-N-heptylamine | 0.00189 mol, 1.04 g | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCCCCCNCCCCCCC | C34H53N3OSi
